US07851473B2
(1) tert-Butyl 4-{[(3,4-dimethylisoxazol-5-yl)amino]carbonyl}piperazine-1-carboxylate
A solution of 1-(tert-butoxycarbonyl)piperazine (5.00 g, 26.8 mmol), 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (3.85 g, 13.4 mmol), disopropylethylamine (2.33 ml, 13.4 mmol) and dimethylsulfoxide (50 ml) was stirred at 70° C. for 2 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (1.80 g, 41.4%) as a solid.

reactant | 1-(tert-butoxycarbonyl)piperazine | 26.8 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 13.4 mmol, 3.85 g | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-Butyl 4-{[(3,4-dimethylisoxazol-5-yl)amino]carbonyl}piperazine-1-carboxylate | 1.80 g, 41.4% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H24N4O4
